US06492403B1
Isopropyl-4-(2-bromoacetyl)-5-methylthiophene-2-carboxylate (91 mg, 0.29 mmol) was allowed to react with 4-phenoxyphenylthiourea (72.6 mg) as described in Example 154, step (a) to give 115 mg (75% yield) of isopropyl 5-methyl-4-{2-[(4-phenoxyphenyl)amino](1,3-thiazol-4-yl)}thiophene-2-carboxylate hydrobromide. 1H NMR (DMSO-d6, 300 MHz) δ1.28 (d, 6H, J=6.2 Hz), 2.70 (s, 3H), 6.06 (quintet, 1H, J=6.2 Hz), 6.92-7.09 (m, 5H), 7.15 (s, 1H), 7.30-7.37 (m, 2H), 7.56-7.70 (m, 2H), 7.98 (s, 1H); Mass Spectrum (ESI) m/z calcd. for C24H22N2O3S2, 450.6 (M+H), found 451.2, 409.2 [—CH(CH3)2].

reactant | Isopropyl-4-(2-bromoacetyl)-5-methylthiophene-2-carboxylate | 0.29 mmol, 91 mg | C(C)(C)OC(=O)C=1SC(=C(C1)C(CBr)=O)C | C11H13BrO3S
reactant | 4-phenoxyphenylthiourea | 72.6 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=S)N | C13H12N2OS
product | isopropyl 5-methyl-4-{2-[(4-phenoxyphenyl)amino](1,3-thiazol-4-yl)}thiophene-2-carboxylate hydrobromide | 115 mg, 75% yield | Br.CC1=C(C=C(S1)C(=O)OC(C)C)C=1N=C(SC1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | InChI=1S/C24H22N2O3S2.BrH/c1-15(2)28-23(27)22-13-20(16(3)31-22)21-14-30-24(26-21)25-17-9-11-19(12-10-17)29-18-7-5-4-6-8-18;/h4-15H,1-3H3,(H,25,26);1H
